US06627629B2
Part C. Preparation of 3-oxo-tetrahydro-pyran-4-carboxylic acid ethyl ester
A solution of 4-ethoxycarbonylmethoxybutyric acid ethyl ester (90%, 15.0 g, 61.9 mmol) in toluene (300 mL) was stirred at room temperature and treated over 5 min with a solution of potassium tert-butoxide in tetrahydrofuran (1.0 M, 74.2 mL, 74.2 mmol). The mixture was stirred at room temperature for 24 h , then was poured into 1 N hydrochloric acid. The phases were separated, and the aqueous phase was extracted with ether. The combined organic phases were dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash column chromatography (5% ethyl acetate/hexanes) to provide the product as a pale yellow liquid (5.06 g, 48%). 1H NMR (300 mHz, CDCl3) δ11.85 (s, 1H), 4.24 (q, J=7.3 Hz, 2H), 4.14 (t, J=1.7 Hz, 2H), 3.79 (t, J=5.5 Hz, 2H), 2.35 (tt, J=5.5, 1.7 Hz, 2H), 1.32 (t, J=7.3 Hz, 3H).

reactant | 4-ethoxycarbonylmethoxybutyric acid ethyl ester | 61.9 mmol, 15.0 g | C(C)OC(CCCOCC(=O)OCC)=O | C10H18O5
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 74.2 mmol, 1.0 M, 74.2 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 3-oxo-tetrahydro-pyran-4-carboxylic acid ethyl ester | 5.06 g, 48% | C(C)OC(=O)C1C(COCC1)=O | C8H12O4
